US08008307B2
Step b: 6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-pyrimidin-4-amine
A mixture of 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine (260.0 mg, 0.0005494 mol), (1R,2S)-2-methoxyindan-1-amine (0.359 g, 0.00220 mol) and triethylamine (115 μL, 0.000824 mol) in 1-butanol (0.97 mL, 0.011 mol) was subjected to microwave irradiation (300 watts, 200° C.) for 30 minutes. The resulting dark brown mixture was filtered and concentrated. The residue was purified by flash chromatography (0 to 15% EtOAc/hexanes) to give 0.26 g (79%) of the title compound. LC/MS: Rt=3.42 min, ES+ 600 (AA standard).

reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine | 0.0005494 mol, 260.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1)Cl | C22H41ClN2O3Si2
reactant | (1R,2S)-2-methoxyindan-1-amine | 0.00220 mol, 0.359 g | CO[C@@H]1[C@@H](C2=CC=CC=C2C1)N | C10H13NO
reactant | triethylamine | 0.000824 mol, 115 μL | C(C)N(CC)CC | C6H15N
reactant | 1-butanol | 0.011 mol, 0.97 mL | C(CCC)O | C4H10O
product | 6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-pyrimidin-4-amine | 0.26 g, 79% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=CC(=NC=N1)N[C@H]1[C@H](CC2=CC=CC=C12)OC | C32H53N3O4Si2
